US05047404
3-Methylamino-5,6-dihydro-5-oxo-7-(2-propoxyphenyl)pyrimido[5,4-e][1,2,4]triazine
5,6-Dihydro-3-methylthio-5-oxo-7-(2-propoxyphenyl)pyrimido[5,4-e][1,2,4]triazine (340 mg) was treated with a solution of methylamine in industrial methylated spirit (33%, 15 ml) at 70° C. in a pressure vessel (172 kPa) for 10 hours. The cooled reaction mixture was evaporated under reduced pressure to afford a yellow solid (290 mg) which was recrystallised from ethanol and then acetonitrile to afford the title compound, 120 mg, m.p. decomposes over 260° C.

reactant | 5,6-Dihydro-3-methylthio-5-oxo-7-(2-propoxyphenyl)pyrimido[5,4-e][1,2,4]triazine | 340 mg | CSC=1N=NC2=C(N1)C(NC(=N2)C2=C(C=CC=C2)OCCC)=O | C15H15N5O2S
reactant | methylamine | CN | CH5N
product | 3-Methylamino-5,6-dihydro-5-oxo-7-(2-propoxyphenyl)pyrimido[5,4-e][1,2,4]triazine | 290 mg | CNC=1N=NC2=C(N1)C(NC(=N2)C2=C(C=CC=C2)OCCC)=O | C15H16N6O2
